US04243609
2-Fluoro-4-(hexadecylamino)benzaldehyde (1.7 g.) is dissolved in toluene (20 ml), and ethylene glycol (2.5 ml.) and p-toluenesulfonic acid (10 mg.) are added. The reaction mixture is heated under reflux for 16 hours while water is removed using a Dean-Stark trap. The reaction mixture is then cooled to room temperature, diluted with toluene (70 ml.), washed with aqueous sodium bicarbonate and then with water. The organic layer is separated dried over mangnesium sulfate, decolorized with charcoal and filtered through anhydrous magnesium silicate. Removal of the solvent in vacuo gives a light yellow solid which is recrystallized from hexane to yield 2-[2-fluoro-4-(hexadecylamino)phenyl]-1,3-dioxolane.

reactant | 2-Fluoro-4-(hexadecylamino)benzaldehyde | 1.7 g | FC1=C(C=O)C=CC(=C1)NCCCCCCCCCCCCCCCC | C23H38FNO
reactant | ethylene glycol | 2.5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-fluoro-4-(hexadecylamino)phenyl]-1,3-dioxolane | FC1=C(C=CC(=C1)NCCCCCCCCCCCCCCCC)C1OCCO1 | C25H42FNO2
